US07994171B2
2-(4-Fluorophenyl)-N-methyl-5-(2-methyl-5-(1-(5-methyloxazol-4-yl)cyclopropylcarbamoyl)phenyl)benzofuran-3-carboxamide.
3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-4-methylbenzoic acid (0.2 g, 0.5 mmol, 1 eq), 1-(5-methyloxazol-4-yl)cyclopropanamine (0.103 g, 0.74 mmol, 1.2 eq), EDCI.HCl (0.105 g, 0.54 mmol, 1.1 eq), HOBT (0.067 g, 0.5 mmol, 1.0 eq) and TEA (0.21 ml, 1.5 mmol, 3 eq) were dissolved in dichloromethane and the above mixture was stirred at room temperature for 18 h. The mixture was then added with water. The organic layer was separated, washed with water and concentrated to give the crude product which was purified by Prep. TLC (20 mm thickness) using 5% methanol/DCM as an eluent. Yield: 25 mg (25%) 1HNMR (400 MHz, DMSO-d6): δ 1.11 (m, 2H), 1.20-1.22 (m, 2H), 2.28 (s, 3H), 2.29 (s, 3H), 2.82 (d, J=4.4 Hz, 3H), 7.38-7.42 (m, 4H), 7.57 (s, 1H), 7.74-7.81 (m, 3H), 8.04 (s, 1H), 7.97-8.01 (m, 2H), 8.45-8.46 (m, 1H), 9.16 (s, 1H). LCMS: (ES+) m/z=524.2 (M+H)+

reactant | 3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-4-methylbenzoic acid | 0.5 mmol, 0.2 g, 1 eq | FC1=CC=C(C=C1)C=1OC2=C(C1C(NC)=O)C=C(C=C2)C=2C=C(C(=O)O)C=CC2C | C24H18FNO4
reactant | 1-(5-methyloxazol-4-yl)cyclopropanamine | 0.74 mmol, 0.103 g, 1.2 eq | CC1=C(N=CO1)C1(CC1)N | C7H10N2O
reactant | EDCI.HCl | 0.54 mmol, 0.105 g, 1.1 eq | CCN=C=NCCCN(C)C.Cl
reactant | HOBT | 0.5 mmol, 0.067 g, 1.0 eq | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 2-(4-Fluorophenyl)-N-methyl-5-(2-methyl-5-(1-(5-methyloxazol-4-yl)cyclopropylcarbamoyl)phenyl)benzofuran-3-carboxamide | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)NC)C=C(C=C2)C2=C(C=CC(=C2)C(NC2(CC2)C=2N=COC2C)=O)C | C31H26FN3O4
